US04111935
A mixture of 3-chloro-6-(2-acetoxyphenyl)pyridazine (23.1 g), aqueous sodium hydroxide (2N, 56 ml) and ethanol (10 ml) was stirred at room temperature for 1 hour. The mixture was diluted with an equal volume of water, adjusted to pH 2 with concentrated hydrochloric acid and was filtered to give 3-chloro-6-(2-hydroxyphenyl)pyridazine (18.7 g) m.p. 187.5°-188.5°. A sample recrystallised from ethanol had m.p. 187.5°-188.5°.

reactant | 3-chloro-6-(2-acetoxyphenyl)pyridazine | 23.1 g | ClC=1N=NC(=CC1)C1=C(C=CC=C1)OC(C)=O | C12H9ClN2O2
reactant | sodium hydroxide | 2N, 56 ml | [OH-].[Na+]
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3-chloro-6-(2-hydroxyphenyl)pyridazine | 18.7 g | ClC=1N=NC(=CC1)C1=C(C=CC=C1)O | C10H7ClN2O
